US05585392
2-{N-[4-(1,1-Dioxido-3-oxo-2,3-dihydro-benzisothiazol-2-yl)butyl]AMINOMETHYL}-8-methoxytetralin
0.95 g of 2-aminomethyl-8-methoxytetralin (5 mmol), 0.70 ml of triethylamine (5mmol) and 1.59 g of 2-(4-bromobutyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide (5 mmol) are stirred at 40° C for 24 h in 19 ml of dimethylformamide. The reaction solution is then stirred into a mixture of 190 ml of 5% strength sodium chloride solution, 60 ml of toluene and 5 ml of 1N hydrochloric acid. After the organic phase has been separated off, the aqueous phase containing the final product precipitated as the resinous hydrochloride is stirred with 60 ml of toluene and 7 ml of triethylamine (50 mmol). The organic phase is separated off again, washed until neutral with water and dried over sodium sulphate. The solvent is distilled off in vacuo. The residue is chromatographed on silica gel 60 (Merck). Toluene/methanol 85:15 is in this case used as the eluent. The main fractions contain the two final products as yellow, viscous oils.

reactant | 2-aminomethyl-8-methoxytetralin | 5 mmol, 0.95 g | NCC1CC2=C(C=CC=C2CC1)OC | C12H17NO
reactant | triethylamine | 5mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-bromobutyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 5 mmol, 1.59 g | BrCCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C11H12BrNO3S
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | triethylamine | 50 mmol, 7 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{N-[4-(1,1-Dioxido-3-oxo-2,3-dihydro-benzisothiazol-2-yl)butyl]AMINOMETHYL}-8-methoxytetralin | O=S1(N(C(C2=C1C=CC=C2)=O)CCCCNCC2CC1=C(C=CC=C1CC2)OC)=O | C23H28N2O4S
